US04847256
A mixture of 20.0 g of 3-trifluoromethylacetophenone and 20 ml of N,N-dimethylacetamide dimethyl acetal was stirred and heated at reflux for 3 hours. The mixture was evaporated in vacuo to give a red solid. The solid was triturated with n-hexane and filtered. The solid was washed with n-hexane and dried to give 18.0 g of 3-(dimethylamino)-1-[3-(trifluoromethyl)phenyl]-2-buten-1-one as red crystals, mp 71°-73° C.

reactant | 3-trifluoromethylacetophenone | 20.0 g | CC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H7F3O
reactant | N,N-dimethylacetamide dimethyl acetal | 20 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 3-(dimethylamino)-1-[3-(trifluoromethyl)phenyl]-2-buten-1-one | 18.0 g | CN(C(=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C)C | C13H14F3NO
